US06048842
converting 3,5-dimethoxyaniline into a diazonium salt thereof with using sodium nitrite in acetic acid in the presence of a hydrochloric acid, and reacting the product with potassium iodide to give dimethoxyiodobenzene;

reactant | 3,5-dimethoxyaniline | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | potassium iodide | [I-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | dimethoxyiodobenzene | COC=1C(=C(C=CC1)I)OC | C8H9IO2
